US07504397B2
(ii) 4-(5-Bromo-furan-2-yl)-2,6-dichloro-pyrimidine (64)
To a stirred solution of 2,4-Dichloro-6-furan-2-yl-pyrimidine (1.44 g, 6.71 mmol) in DMF (20 ml) was added N-bromosuccinimide (1.31 g, 7.38 mmol) in a portionwise fashion. The resultant mixture was stirred at room temperature for a 2.5 hours before being diluted in EtOAc (50 ml) and washed with water (2×50 ml). The organic extract was dried (MgSO4), filtered and concentrated in vacuo to give an orange, semi-crystalline slurry. The crude residue was washed with ether and filtered to leave the desired product (1.29 g, 99%) as a whited crystalline solid in suitably clean form to be used without any further purification. m/z (LC-MSW, ESP):294 [M+H]+, R/T=5.09 mins.

reactant | 2,4-Dichloro-6-furan-2-yl-pyrimidine | 6.71 mmol, 1.44 g | ClC1=NC(=CC(=N1)Cl)C=1OC=CC1 | C8H4Cl2N2O
reactant | N-bromosuccinimide | 7.38 mmol, 1.31 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 4-(5-Bromo-furan-2-yl)-2,6-dichloro-pyrimidine | 1.29 g, 99% | BrC1=CC=C(O1)C1=NC(=NC(=C1)Cl)Cl | C8H3BrCl2N2O
